US07345049B2
Process 1 4-[(4-aminopyrimidine-5-yl) carbonyl]amino-N-(2,6-dichlorobenzoyl)-L-phenylalanine methylester
The mixture of N-(2,6-dichlorobenzoyl)-4-amino-L-phenylalanine methylester (1.0 g), EDC/HCl (783 mg), HOAt (555 mg), triethylamine (747 μL), 4-aminopyrimidine-5-carboxylic acid (417 mg) and dichloromethane (15 mL) was stirred overnight. After diluting the mixture with dichloromethane and washing with saturated sodium bicarbonate water, the organic layer thereof was dried over sodium sulfate and concentrated. The residue was washed with dichloromethane to obtain 145 mg of a crude material of the title compound.

reactant | N-(2,6-dichlorobenzoyl)-4-amino-L-phenylalanine methylester | 1.0 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)N)=O | C17H16Cl2N2O3
reactant | EDC HCl | 783 mg | C(CCl)Cl.Cl
reactant | HOAt | 555 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 4-aminopyrimidine-5-carboxylic acid | 417 mg | NC1=NC=NC=C1C(=O)O | C5H5N3O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | triethylamine | 747 μL | C(C)N(CC)CC | C6H15N
product | 4-[(4-aminopyrimidine-5-yl) carbonyl]amino-N-(2,6-dichlorobenzoyl)-L-phenylalanine methylester | 145 mg | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)NC(=O)C=1C(=NC=NC1)N)=O | C22H19Cl2N5O4
